US06329400B1
To a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-chlorophenyl)-2-propene-1-yl)-4-methylazetidin-2-one (0.37 g, 1.10 mmol) in 5 mL of methanol is treated with 30 mg of 5% palladium on barium sulfate. The resulting suspension is repeatedly evacuated and purged with a hydrogen balloon, then stirred under 1 atmosphere pressure of hydrogen gas or 30 h. The catalyst is filtered and the filtrate is concentrated in vacuo to provide (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(3-(4-chlorophenyl)-1-propyl)-4-methylazetidin-2-one as an oil (360 mg, 97% yield).

reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-chlorophenyl)-2-propene-1-yl)-4-methylazetidin-2-one | 1.10 mmol, 0.37 g | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\C1=CC=C(C=C1)Cl)=O | C18H22ClNO3
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on barium sulfate | 30 mg | [Pd] | Pd
product | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(3-(4-chlorophenyl)-1-propyl)-4-methylazetidin-2-one | 360 mg, 97% yield | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)CCCC1=CC=C(C=C1)Cl)=O | C18H24ClNO3
